US08632767B2
Stage 5: 1,1′-[Disulphanediylbis(4,6-dimethylbenzene-3,1-diyl)]bis[3-(difluoromethyl)-1H-1,2,4-triazole]
A quantity of 5.4 g of 5-[3-(difluoromethyl)-1H-1,2,4-triazol-1-yl]-2,4-dimethylbenzenesulphonyl chloride is dissolved in 25 ml of glacial acetic acid, and 4.6 ml of hydrochloric acid (32% strength) are added. The mixture is heated at 120° C. (reflux). Then 2.53 g of iron powder in portions are added. Following complete reaction, the major part of glacial acetic acid is distilled off, and water and dichloromethane are added. Following phase separation and concentration of the organic phase on a rotary evaporator, and after chromatographic purification (CH2Cl2), 1.9 g (49.5% of theory) of a white solid are obtained.

reactant | 5-[3-(difluoromethyl)-1H-1,2,4-triazol-1-yl]-2,4-dimethylbenzenesulphonyl chloride | 5.4 g | FC(C1=NN(C=N1)C=1C(=CC(=C(C1)S(=O)(=O)Cl)C)C)F | C11H10ClF2N3O2S
reactant | hydrochloric acid | 4.6 ml | Cl | ClH
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
catalyst | iron | 2.53 g | [Fe] | Fe
product | 1,1′-[Disulphanediylbis(4,6-dimethylbenzene-3,1-diyl)]bis[3-(difluoromethyl)-1H-1,2,4-triazole] | S(SC=1C=C(C(=CC1C)C)N1N=C(N=C1)C(F)F)C=1C=C(C(=CC1C)C)N1N=C(N=C1)C(F)F | C22H20F4N6S2
